### PR TITLE
[Merged by Bors] - General valued constraint satisfaction problem defined

### PR DESCRIPTION
**Pull request by madvorak**
---

Zulip discussion:
https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.237404.20VCSP

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by madvorak** [comment]
Does ` ofArity` already exist?

**Comment by eric-wieser** [comment]
> Does ` ofArity` already exist?

No, but [`Arity`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/ZFC/Basic.html#Arity) does, which would only need a tiny generalization to cover your case.

File: Mathlib/Data/ValuedCSP.lean [hunk 1]
```diff
@@ -0,0 +1,24 @@
...
+def ofArity (α β : Type _) : ℕ → Type
+| 0   => β
+| n+1 => α → ofArity α β n
+
+/-- A template for a valued CSP problem with costs in `C` which is usually `ℚ≥0` -/
+structure ValuedCspTemplate (C : Type) [LinearOrderedAddCommMonoid C] where
+  /-- Domain of "labels" -/
+  D : Type
+  /-- Cost functions `D^k → C` for any `k` -/
+  F : Set (Σ (k : ℕ), ofArity D C k)
```
Comment (eric-wieser) [inline Mathlib/Data/ValuedCSP.lean:24]: I don't think this PR is meaningfully reviewable in its current form; a definition with no API isn't of any use, and you can't tell if a definition is the right one until you start defining/proving things in terms of it.

**Comment by madvorak** [comment]
> > Does ` ofArity` already exist?
> 
> No, but [`Arity`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/ZFC/Basic.html#Arity) does, which would only need a tiny generalization to cover your case.

Does it mean I should replace the existing definition `Arity` by my definition on order to have only one?

File: Mathlib/Data/ValuedCSP.lean (hunk 1 above)
Comment (madvorak) [reply Mathlib/Data/ValuedCSP.lean:24]: Thanks anyways for having a look!
Let's decide the `ofArity` vs `Arity` thing and then I'll make some API.

**Comment by eric-wieser** [comment]
Sure, but here "replace" is really just "add one more argument to"

File: Mathlib/Data/ValuedCSP.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/ValuedCSP.lean:24]: I strongly suspect the answer is going to be "you don't want `Arity` here anyway"...

Comment (madvorak) [reply Mathlib/Data/ValuedCSP.lean:24]: What is your suspicion based on, please?

Comment (madvorak) [reply Mathlib/Data/ValuedCSP.lean]: Arity removed.

File: Mathlib/Data/ValuedCSP.lean [hunk 2]
```diff
@@ -0,0 +1,164 @@
...
+  min := Bool.linearOrder.min
+  max := Bool.linearOrder.max
+  compare := Bool.linearOrder.compare
+  le_total := Bool.linearOrder.le_total
+  decidableLE := Bool.linearOrder.decidableLE
+  decidableEq := Bool.linearOrder.decidableEq
+  decidableLT := Bool.linearOrder.decidableLT
+  min_def := Bool.linearOrder.min_def
+  max_def := Bool.linearOrder.max_def
+  compare_eq_compareOfLessAndEq := Bool.linearOrder.compare_eq_compareOfLessAndEq
```
Comment (eric-wieser) [inline Mathlib/Data/ValuedCSP.lean:92]:
```suggestion
  __ := Bool.linearOrder
```

File: Mathlib/Data/ValuedCSP.lean [hunk 3]
```diff
@@ -0,0 +1,164 @@
...
+  add (a b : Bool) := a || b
+  add_assoc := Bool.or_assoc
+  zero := false
+  zero_add (_ : Bool) := rfl
+  add_zero := Bool.or_false
+  nsmul (n : ℕ) (a : Bool) := a && (n > 0)
+  nsmul_zero := Bool_nsmul_zero
+  nsmul_succ := Bool_nsmul_succ
```
Comment (eric-wieser) [inline Mathlib/Data/ValuedCSP.lean:100]: You would save yourself a lot of work by dropping these!

Comment (madvorak) [reply Mathlib/Data/ValuedCSP.lean:85]: It works without them!!
How so?
I didn't know I could omit some parts of a typeclass.

File: Mathlib.lean [hunk 4]
```diff
@@ -1250,6 +1250,7 @@ import Mathlib.Combinatorics.HalesJewett
 import Mathlib.Combinatorics.Hall.Basic
 import Mathlib.Combinatorics.Hall.Finite
 import Mathlib.Combinatorics.Hindman
+import Mathlib.Combinatorics.Optimization.ValuedCSP
 import Mathlib.Combinatorics.Partition
 import Mathlib.Combinatorics.Pigeonhole
```
[the remark this answers is not in the document]
Comment (madvorak) [reply Mathlib.lean:1255]: ??

[the remark this answers is not in the document]
Comment (alexjbest) [reply Mathlib.lean:1255]: Very weird, but I have no idea how to debug this...

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 5]
```diff
@@ -0,0 +1,216 @@
...
+-/
+
+def n1ary_of_unary {α β : Type _} (f : α → β) : (Fin 1 → α) → β :=
+  fun a => f (a 0)
+
+def n2ary_of_binary {α β : Type _} (f : α → α → β) : (Fin 2 → α) → β :=
+  fun a => f (a 0) (a 1)
+
+/-- A template for a valued CSP problem with costs in `C`. -/
+structure ValuedCspTemplate (C : Type _) [LinearOrderedAddCommMonoid C] where
```
Comment (apurvanakade) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:42]: Do you need this structure at all? Shouldn't it be enough to give a cost function and a constraint to define an optimization problem (your `ValuedCspTerm`)? Prescribing a set of possible cost functions seems like an unnecessary overhead to me to just define an optimization problem (I'm thinking of linear/convex programming).

At the very least define constructors for `ValuedCspTerm` that only take as input the cost function and constraints.

Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:42]: There exists a rich theory that classifies VCSP depending on algebraic properties of the allowed cost functions.

Starting on the `ValuedCspTerm` level isn't interesting IMO.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 6]
```diff
@@ -0,0 +1,216 @@
...
+    (ok : ⟨2, n2ary_of_binary f₂⟩ ∈ Γ.F) (i j : ι) : ValuedCspTerm Γ ι :=
+  ⟨2, n2ary_of_binary f₂, ok, ![i, j]⟩
+
+/-- Evaluation of a `Γ` term `t` for given solution `x`. -/
+def ValuedCspTerm.evalSolution {Γ : ValuedCspTemplate C} {ι : Type _}
+    (t : ValuedCspTerm Γ ι) (x : ι → Γ.D) : C :=
+  t.f (x ∘ t.app)
+
+/-- A valued CSP instance over the template `Γ` with variables indexed by `ι`.-/
+def ValuedCspInstance (Γ : ValuedCspTemplate C) (ι : Type _) : Type :=
```
Comment (apurvanakade) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:75]: Also not clear on the need for this if it's just a list of things already defined, and whether it should be named `ValuedCspInstance` if it's just a list of optimization problems. I suspect there is some naming convection in the literature that differs from the Mathlib meaning of instance.

Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:75]: That's not really a list of optimization problems. `ValuedCspInstance` is one optimization problem; it consists of terms that overlap in the variables referred from them. If you want to optimize a function given some constraints, you provide the function to be minimized as a `ValuedCspTerm` with rational values and the constraints as `ValuedCspTerm` with {0, infinity} values.

Note that I am not referring to the meaning of a typeclass instance (which would be a Lean terminology, not an optimization terminology).

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 5 above)
Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:42]: Speaking In everyday mathematical language, one `ValuedCspTerm` represents either a function or a constraint. You need more of them to make the VCSP instance interesting.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 6 above)
Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:75]: For example, we want to minimize 1/x + 1/y on { (x, y) | x > 0, y > 0, x + y = 2 }.
The domain will be positive rationals.
The template will contain (at least) the following two functions:
* a unary function that calculates the reciprocal
* a binary function that returns zero when the arguments sum up to 2 and infinity otherwise
The instance then consists of two terms that use the unary function and one term that uses the binary function.
The optimum solution is (1, 1), represented as `fun (_ : Fin 2) => (1 : ℚ)` in Lean.

Comment (apurvanakade) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:75]: I see. This is too foreign to me :(
I'm used to studying optimization theory in the convex programming context which takes a very different approach. I don't think I'll be able to provide any meaningful feedback here, sorry.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 7]
```diff
@@ -0,0 +1,216 @@
...
+* `ValuedCspInstance.evalSolution`: An evaluation of the VCSP instance for given solution.
+* `ValuedCspInstance.optimumSolution`: Is given solution a minimum of the VCSP instance?
+
+## References
+* [D. A. Cohen, M. C. Cooper, P. Creed, P. G. Jeavons, S. Živný,
+   *An Algebraic Theory of Complexity for Discrete Optimisation*][cohen2012]
+
+-/
+
+def n1ary_of_unary {α β : Type _} (f : α → β) : (Fin 1 → α) → β :=
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:35]: A general comment; where possible, `Type _` should be `Type*` throughout.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 8]
```diff
@@ -0,0 +1,216 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Martin Dvorak
+-/
+import Mathlib.Algebra.Order.Monoid.Defs
+import Mathlib.Data.Finset.Basic
+import Mathlib.Data.Fin.VecNotation
+import Mathlib.Data.Rat.Order -- will be trimmed after deleting examples
+import Mathlib.Tactic.Linarith
+import Mathlib.Tactic.Cases
+import Mathlib.Data.Bool.Basic
```
Comment (fpvandoorn) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:12]: are none of these imports transitively imported by other imports?

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 7 above)
Comment (fpvandoorn) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:35]: camelCase (also below)

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 9]
```diff
@@ -0,0 +1,216 @@
...
+def n1ary_of_unary {α β : Type _} (f : α → β) : (Fin 1 → α) → β :=
+  fun a => f (a 0)
+
+def n2ary_of_binary {α β : Type _} (f : α → α → β) : (Fin 2 → α) → β :=
+  fun a => f (a 0) (a 1)
+
+/-- A template for a valued CSP problem with costs in `C`. -/
+structure ValuedCspTemplate (C : Type _) [LinearOrderedAddCommMonoid C] where
+  /-- Domain of "labels" -/
+  D : Type
```
Comment (fpvandoorn) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:44]: Since this is usually a finite set, i think it's fine to say this must live in the bottom type universe. Can you add a comment in the docstring (so that it's clear that it's intentional).

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 10]
```diff
@@ -0,0 +1,216 @@
...
+  /-- Cost functions from `D^k` to `C` for any `k` -/
+  F : Set (Σ (k : ℕ), (Fin k → D) → C)
```
Comment (fpvandoorn) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:46]: Possible different design decision: have an indexing type `α`, and two functions `a : α → ℕ` and `∀ i, (Fin (a i) → D) → C`. Not sure if that is better though.
But then the first 3 fields of `ValuedCspTerm` can just be `x : α`.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 11]
```diff
@@ -0,0 +1,216 @@
...
+  /-- Arity of the function -/
+  k : ℕ
+  /-- Which cost function is instantiated -/
+  f : (Fin k → Γ.D) → C
+  /-- The cost function comes from the template -/
+  inΓ : ⟨k, f⟩ ∈ Γ.F
+  /-- Which variables are plugged as arguments to the cost function -/
+  app : Fin k → ι
+
+def valuedCspTerm_of_unary {Γ : ValuedCspTemplate C} {ι : Type _} {f₁ : Γ.D → C}
```
Comment (fpvandoorn) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:61]: camelCase, probably rename to `ValuedCspTerm.ofUnary` (also below)

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 12]
```diff
@@ -0,0 +1,216 @@
...
+  t.f (x ∘ t.app)
+
+/-- A valued CSP instance over the template `Γ` with variables indexed by `ι`.-/
+def ValuedCspInstance (Γ : ValuedCspTemplate C) (ι : Type _) : Type :=
+  List (ValuedCspTerm Γ ι)
+
+/-- Evaluation of a `Γ` instance `I` for given solution `x`. -/
+def ValuedCspInstance.evalSolution {Γ : ValuedCspTemplate C} {ι : Type _}
+    (I : ValuedCspInstance Γ ι) (x : ι → Γ.D) : C :=
+  (I.map (fun t => t.evalSolution x)).sum
```
Comment (fpvandoorn) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:81]:
```suggestion
  (I.map (·.evalSolution x)).sum
```
(not important, of course)

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 6 above)
Comment (fpvandoorn) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:75]: Why `List`? The order is important? If not, use `Finset`. (sums over `Finset` have arguably a better API)

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 13]
```diff
@@ -0,0 +1,216 @@
...
+  convert_to 0 ≤ ValuedCspInstance.evalSolution exampleFiniteValuedInstance s
+  rw [ValuedCspInstance.evalSolution, exampleFiniteValuedInstance,
+      List.map_cons, List.map_cons, List.map_nil, List.sum_cons, List.sum_cons, List.sum_nil,
+      add_zero]
+  show 0 ≤ |s 0| + |s 1|
+  have s0nn : 0 ≤ |s 0|
+  · exact abs_nonneg (s 0)
+  have s1nn : 0 ≤ |s 1|
+  · exact abs_nonneg (s 1)
+  linarith
```
Comment (fpvandoorn) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:127]:
```suggestion
  positivity
```
(needs `import Mathlib.Tactic.Positivity`)

**Review by fpvandoorn — COMMENTED** [review]
I think this looks mostly good. Can you already formulate something with the current definitions that you want to prove?

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 7 above)
Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:35]: Will be `Type` instead.

Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:35]: Or is it something that the comment by @fpvandoorn does not apply to?

Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:35]: Actually `n1aryOfUnary` and  `n2aryOfBinary` will be with `Type*`. Can all definitions about VCSP be in `Type` tho?

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 10 above)
Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:46]: I'll think about it!

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 8 above)
Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:12]: I will filter them out.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 7 above)
Comment (fpvandoorn) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:35]: No, you should almost never use `Type` without a `*`. I fully agree with Eric here, you should use `Type*` by default.

The reason that `D : Type` in the structure is sort-of acceptable, is 
* It's a structure field, and adding a new universe there makes the structure depend on another universe, which is annoying
* It's almost always a finite indexing type, so should live in the bottom universe. It's still possible that using `Type` will come to bite us later.
But in short: use `Type*` everywhere else.

Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:35]: Ah, I get it. I will refector everything but `D` to `Type*` as @eric-wieser suggested.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 14]
```diff
@@ -0,0 +1,216 @@
...
+
+
+
+private def Bool_add_le_add_left (a b : Bool) :
+  (a = false ∨ b = true) → ∀ (c : Bool), (((c || a) = false) ∨ ((c || b) = true)) :=
+by simp
+
+-- Upside down !!
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:135]: What does this comment mean?

Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:135]: It means that, in this example (which is here only temporarily and won't be added to mathlib), `True` and `False` are swapped out of convenience.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 6 above)
Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean]: Did you mean `Multiset` please?

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 14 above)
Comment (eric-wieser) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:129]: I don't see the swap. Either way, this instance is bad because mathlib already defines `b1 + b2` as `b1 ^^^ b2`, but you define it with `||` instead.

( I realize it's just here for your example, but I think this makes it a bad example too)

Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean]: I should have defined an instance that makes `True ≤ False` and so on.

Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean]: If there is already an instance that treats plus as xor, it wouldn't be a linear order, right?
My code reuses `Bool.linearOrder` tho.

File: Mathlib/Combinatorics/Optimization/Deleteme.lean
Comment (eric-wieser) [inline Mathlib/Combinatorics/Optimization/Deleteme.lean:1]: This could maybe stick around in the `test` folder.

Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/Deleteme.lean:1]: It wasn't my plan, but it could be done.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 15]
```diff
@@ -0,0 +1,79 @@
...
+
+/-- A template for a valued CSP problem over a domain `D` with costs in `C`. -/
+@[reducible]
+def ValuedCspTemplate (D C : Type*) [LinearOrderedAddCommMonoid C] :=
+  Set (Σ (n : ℕ), (Fin n → D) → C) -- Cost functions `D^n → C` for any `n`
+
+variable {D C : Type*} [LinearOrderedAddCommMonoid C]
+
+/-- A term in a valued CSP instance over the template `Γ`. -/
+structure ValuedCspTerm (Γ : ValuedCspTemplate D C) (ι : Type*) where
```
Comment (fpvandoorn) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:44]:
```suggestion
structure ValuedCspTemplate.Term (Γ : ValuedCspTemplate D C) (ι : Type*) where
```
All of my renamings are suggestions, feel free to not apply them if you want. In this case, this allows you to write `Γ.Term`.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 16]
```diff
@@ -0,0 +1,79 @@
...
+  /-- Arity of the function -/
+  n : ℕ
+  /-- Which cost function is instantiated -/
+  f : (Fin n → D) → C
+  /-- The cost function comes from the template -/
+  inΓ : ⟨n, f⟩ ∈ Γ
+  /-- Which variables are plugged as arguments to the cost function -/
+  app : Fin n → ι
+
+def valuedCspTermOfUnary {Γ : ValuedCspTemplate D C} {ι : Type*} {f₁ : D → C}
```
Comment (fpvandoorn) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:54]: You didn't like my previous suggestion of `ValuedCspTerm.ofUnary`?

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 6 above)
Comment (fpvandoorn) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean]: If you care about the duplication, then multiset is better yes.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 17]
```diff
@@ -0,0 +1,79 @@
...
+    (ok : ⟨2, n2aryOfBinary f₂⟩ ∈ Γ) (i j : ι) : ValuedCspTerm Γ ι :=
+  ⟨2, n2aryOfBinary f₂, ok, ![i, j]⟩
+
+/-- Evaluation of a `Γ` term `t` for given solution `x`. -/
+def ValuedCspTerm.evalSolution {Γ : ValuedCspTemplate D C} {ι : Type*}
+    (t : ValuedCspTerm Γ ι) (x : ι → D) : C :=
+  t.f (x ∘ t.app)
+
+/-- A valued CSP instance over the template `Γ` with variables indexed by `ι`.-/
+def ValuedCspInstance (Γ : ValuedCspTemplate D C) (ι : Type*) :=
```
Comment (fpvandoorn) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:68]: `ValuedCspTemplate.Instance`?

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 18]
```diff
@@ -0,0 +1,79 @@
...
+  List (ValuedCspTerm Γ ι)
+
+/-- Evaluation of a `Γ` instance `I` for given solution `x`. -/
+def ValuedCspInstance.evalSolution {Γ : ValuedCspTemplate D C} {ι : Type*}
+    (I : ValuedCspInstance Γ ι) (x : ι → D) : C :=
+  (I.map (·.evalSolution x)).sum
+
+/-- Condition for `x` being an optimum solution (min) to given `Γ` instance `I`.-/
+def ValuedCspInstance.OptimumSolution {Γ : ValuedCspTemplate D C} {ι : Type*}
```
Comment (fpvandoorn) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:77]:
```suggestion
def ValuedCspInstance.OptimalSolution {Γ : ValuedCspTemplate D C} {ι : Type*}
```
`Optimum` is usually used as a noun.

**Review by fpvandoorn — COMMENTED** [review]
Some more smaller comments.

One last remark: this file currently only contains definitions. You have plans to actually prove things about these definitions, right?

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 18 above)
Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:77]: I thought that `Optimum` is stronger than `Optimal`, i.e., `Optimum` is better than everything, `Optimal` can be incomparable with some elements (you can have several nonidentical optimal solutions). Did I get the terminology wrong?

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 19]
```diff
@@ -0,0 +1,79 @@
...
+* [D. A. Cohen, M. C. Cooper, P. Creed, P. G. Jeavons, S. Živný,
+   *An Algebraic Theory of Complexity for Discrete Optimisation*][cohen2012]
+
+-/
+
+def n1aryOfUnary {α β : Type*} (f : α → β) : (Fin 1 → α) → β :=
+  fun a => f (a 0)
+
+def n2aryOfBinary {α β : Type*} (f : α → α → β) : (Fin 2 → α) → β :=
+  fun a => f (a 0) (a 1)
```
[the remark this answers is not in the document]
Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:34]: `Function.OfArity.uncurry` by @eric-wieser will replace these two definitions.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 16 above)
Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:54]: I don't like `ValuedCspTerm.something` if there is no `ValuedCspTerm` to speak of.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 6 above)
Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean]: The objective is to minimize a sum of terms. It may happen that two terms (among those that are summed) are equal. I'm not saying it is particularly useful to have duplicates, but it would be weird for the definition to forbid it (and it would probably create many issues later on).

Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean]: Do you think `Multiset` is easier to work with than `List`? I probably don't care about ordering the terms in the objective function.

**Comment by madvorak** [comment]
> Some more smaller comments.
> 
> One last remark: this file currently only contains definitions. You have plans to actually prove things about these definitions, right?

Yes, but those theorems will require a lot more definitions that build on these definitions. Therefore, I would like to get these definitions merged first, as large PRs take forever to review.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 19 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean:34]: I think you might need the universe polymorphism...

File: Mathlib/Combinatorics/Optimization/Deleteme.lean
Comment (eric-wieser) [reply Mathlib/Combinatorics/Optimization/Deleteme.lean:1]: I think it's worth keeping as an example

File: Mathlib/Combinatorics/Optimization/Deleteme.lean [hunk 20]
```diff
@@ -31,7 +32,7 @@ private def exampleFiniteValuedCsp : ValuedCsp ℚ ℚ := {exampleAbs}
 private lemma abs_in : ⟨1, absRat⟩ ∈ exampleFiniteValuedCsp := rfl
 
 private def exampleFiniteValuedInstance : exampleFiniteValuedCsp.Instance (Fin 2) :=
-  [valuedCspTermOfUnary abs_in 0, valuedCspTermOfUnary abs_in 1]
+  Multiset.ofList [valuedCspTermOfUnary abs_in 0, valuedCspTermOfUnary abs_in 1]
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Optimization/Deleteme.lean:35]:
```suggestion
  {valuedCspTermOfUnary abs_in 0, valuedCspTermOfUnary abs_in 1}
```

Comment (madvorak) [reply Mathlib/Combinatorics/Optimization/Deleteme.lean:35]: Very nice! Didn't know this notation existed!

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean (hunk 18 above)
Comment (fpvandoorn) [reply Mathlib/Combinatorics/Optimization/ValuedCSP.lean]: I'm not sure, it's not important though.

File: Mathlib/Combinatorics/Optimization/Deleteme.lean (hunk 20 above)
Comment (fpvandoorn) [reply Mathlib/Combinatorics/Optimization/Deleteme.lean]: `{x,y,z}` works for everything that has `Singleton` and `Insert`, so `Set`, `Finset`, `Multiset`, etc.

**Review by fpvandoorn — APPROVED** [review]
LGTM after `Deleteme` is deleted.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 21]
```diff
@@ -0,0 +1,67 @@
...
+  /-- Which variables are plugged as arguments to the cost function -/
+  app : Fin n → ι
+
+/-- Evaluation of a `Γ` term `t` for given solution `x`. -/
+def ValuedCsp.Term.evalSolution {Γ : ValuedCsp D C} {ι : Type*}
+    (t : Γ.Term ι) (x : ι → D) : C :=
+  t.f (x ∘ t.app)
+
+/-- A valued CSP instance over the template `Γ` with variables indexed by `ι`.-/
+def ValuedCsp.Instance (Γ : ValuedCsp D C) (ι : Type*) :=
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:56]:
```suggestion
def ValuedCsp.Instance (Γ : ValuedCsp D C) (ι : Type*) : Type _ :=
```
(note this is one of the places where `Type _` is ok.

File: Mathlib/Combinatorics/Optimization/ValuedCSP.lean [hunk 22]
```diff
@@ -0,0 +1,67 @@
...
+  Multiset (Γ.Term ι)
+
+/-- Evaluation of a `Γ` instance `I` for given solution `x`. -/
+def ValuedCsp.Instance.evalSolution {Γ : ValuedCsp D C} {ι : Type*}
+    (I : Γ.Instance ι) (x : ι → D) : C :=
+  (I.map (·.evalSolution x)).sum
+
+/-- Condition for `x` being an optimum solution (min) to given `Γ` instance `I`.-/
+def ValuedCsp.Instance.OptimumSolution {Γ : ValuedCsp D C} {ι : Type*}
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Optimization/ValuedCSP.lean:65]:
```suggestion
def ValuedCsp.Instance.IsOptimumSolution {Γ : ValuedCsp D C} {ι : Type*}
```
seems a little clearer that this doesn't carry data.

**Comment by fpvandoorn** [comment]
Thanks!

bors merge
